US04230703
The resulting 2-cyano-6-chloro-11-oxodibenz[b,e]azepine (17.4 g) and triethylamine (9 g) were dissolved in dioxane (840 ml), and the solution was catalytically hydrogenated for 17 hours at room temperature at a hydrogen pressure of 4 kg/cm2 with 10% palladium-carbon powder (2 g) as a catalyst. After the hydrogenation, the catalyst was filtered off, and the filtrate was concentrated at reduced pressure. The concentrate was purified by silica gel chromatography, and recrystallized from acetone to obtain 5,6-dihydro-2-cyano-11-oxodibenz[b,e]azepine (7.06 g).

reactant | 2-cyano-6-chloro-11-oxodibenz[b,e]azepine | 17.4 g | C(#N)C1=CC2=C(N=C(C3=C(C2=O)C=CC=C3)Cl)C=C1 | C15H7ClN2O
reactant | triethylamine | 9 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 840 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 2 g | [C].[Pd]
product | 5,6-dihydro-2-cyano-11-oxodibenz[b,e]azepine | 7.06 g | C(#N)C1=CC2=C(NCC3=C(C2=O)C=CC=C3)C=C1 | C15H10N2O
